US04661510
3-(1,2-propadien-1-yl)-3-(benzoylamino)piperidin-2-one
An 11.04 g aliquot of 2,5-di(benzoylamino)ornithine propargyl ester was added to 80 ml of dry acetonitrile, 21.97 ml of triethylamine, 12.48 carbon tetrachloride and 30.69 g of triphenylphosphine. After about 2 hours at room temperature, 50 ml of methanol were added and the solution left at room temperature overnight. The reaction mixture was concentrated in vacuo, and to this residue was added 80 ml of tetrahydrofuran and 40 ml of 10% acetic acid and stirring. After 24 hours at room temperature, the reaction mixture was partitioned between ethyl acetate and 10% HCl. The organic layer was extracted several times with 10% HCl after which the combined aqueous fractions were washed exhaustively with methylene chloride. The pH of the aqueous portion was adjusted to 10 with concentrated sodium hydroxide to induce lactam formation. On cooling, a precipitate formed which was filtered and recrystallized from methanol-ethyl acetate to give the title compound, mp 203°-204° C.

reactant | 2,5-di(benzoylamino)ornithine propargyl ester | C(C#C)OC([C@@](N)(CCC(N)NC(C1=CC=CC=C1)=O)NC(C1=CC=CC=C1)=O)=O | C22H24N4O4
reactant | acetonitrile | 80 ml | C(C)#N | C2H3N
reactant | triethylamine | 21.97 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 30.69 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methanol | 50 ml | CO | CH4O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(1,2-propadien-1-yl)-3-(benzoylamino)piperidin-2-one | C(=C=C)C1(C(NCCC1)=O)NC(C1=CC=CC=C1)=O | C15H16N2O2
